### PR TITLE
[feat] examples: Add linked-list backed stack

### PR DESCRIPTION
**Pull request by ethan-kharitonov**
*Description of changes:* Adds a stack uRust type built on top of the existing linked-list implementation. 

- Stack.thy: `stack` locale with `stack_points_to` predicate and verified `empty`, `push`, `pop`, `is_empty`, and `push_all` operations.
- ROOT: Adds Stack theory.

*Tested*: `isabelle build -d . Micro_Rust_Examples`.

By submitting this pull request, I confirm that you can use, modify, copy, and redistribute this contribution, under the terms of your choice.

### CODE REVIEW

File: Micro_Rust_Examples/Stack.thy [hunk 1]
```diff
@@ -0,0 +1,193 @@
...
+    node_prism :: \<open>('gv, ('addr, 'gv, 't) ll_node_raw) prism\<close>
+  + assumes ll_focus_node_prism: \<open>ll_focus = prism_to_focus node_prism\<close>
+begin
+
+adhoc_overloading store_reference_const \<rightleftharpoons> ref_ll_node.new
+
+lemma prism_embed_iso_prism_id [simp]: \<open>prism_embed (iso_prism id id) = id\<close>
+  by (auto simp: iso_prism_def)
+
+lemma gref_map_id [simp]: \<open>gref_map id = id\<close>
```
Comment (dominic-mulligan-aws) [inline Micro_Rust_Examples/Stack.thy:29]: nit: please use `shows` when expressing lemma statements and match the prevailing style.

File: Micro_Rust_Examples/Stack.thy [hunk 2]
```diff
@@ -0,0 +1,193 @@
...
+     let pre = can_alloc_reference \<star> stack_points_to ts s in
+     let post = \<lambda>_. can_alloc_reference \<star> stack_points_to (x # ts) s in
+     make_function_contract pre post\<close>
+ucincl_auto push_contract
+
+lemma push_spec [crush_specs]:
+  shows \<open>\<Gamma>; push s x \<Turnstile>\<^sub>F push_contract s x ts\<close>
+  apply (crush_boot f: push_def contract: push_contract_def)
+  apply (clarsimp simp add: stack_points_to_def)
+  apply crush_base
```
Comment (dominic-mulligan-aws) [inline Micro_Rust_Examples/Stack.thy:97]: nit: can the two lines not be collapsed into:

```
apply (crush_base simp add: ll_focus_node_prism aentails_refl is_valid_ref_for_def)
```

File: Micro_Rust_Examples/Stack.thy [hunk 3]
```diff
@@ -0,0 +1,193 @@
...
+        | x#xs  \<Rightarrow> stack_points_to xs s \<star> \<langle>r = Some x\<rangle>) in
+     make_function_contract pre post\<close>
+ucincl_proof pop_contract
+  by (auto split: list.splits intro: ucincl_intros)
+
+lemma pop_spec [crush_specs]:
+  shows \<open>\<Gamma>; pop s \<Turnstile>\<^sub>F pop_contract s ts\<close>
+  apply (crush_boot f: pop_def contract: pop_contract_def)
+  apply (cases ts; clarsimp simp add: stack_points_to_def ll_points_to_None asepconj_simp)
+   apply (crush_base split!: option.splits)+
```
Comment (dominic-mulligan-aws) [inline Micro_Rust_Examples/Stack.thy:132]: nit: additional space here of indentation.  Is the `+` needed, also?

File: Micro_Rust_Examples/Stack.thy [hunk 4]
```diff
@@ -0,0 +1,193 @@
...
+     let pre = stack_points_to ts s in
+     let post = \<lambda>r. stack_points_to ts s \<star> \<langle>r \<longleftrightarrow> ts = []\<rangle> in
+     make_function_contract pre post\<close>
+ucincl_auto is_empty_contract
+
+lemma is_empty_spec [crush_specs]:
+  shows \<open>\<Gamma>; is_empty s \<Turnstile>\<^sub>F is_empty_contract s ts\<close>
+  apply (crush_boot f: is_empty_def contract: is_empty_contract_def)
+  apply (cases ts; clarsimp simp add: stack_points_to_def ll_points_to_None asepconj_simp)
+   apply (crush_base split!: option.splits)+
```
Comment (dominic-mulligan-aws) [inline Micro_Rust_Examples/Stack.thy:156]: nit: same comment as above.

File: Micro_Rust_Examples/Stack.thy [hunk 5]
```diff
@@ -0,0 +1,193 @@
...
+  apply (crush_boot f: push_all_def contract: push_all_contract_def)
+  apply (crush_base simp add: list_into_iter_def)
+  apply (ucincl_discharge\<open>
+    rule_tac
+      INV = \<open>\<lambda>_ i. can_alloc_reference \<star> stack_points_to (rev (take i xs) @ ts) s\<close> and
+      \<tau>   = \<open>\<lambda>_. \<langle>False\<rangle>\<close> and
+      \<theta>   = \<open>\<lambda>_. \<langle>False\<rangle>\<close>
+    in wp_raw_for_loop_framedI'
+  \<close>)
+  subgoal by crush_base
```
Comment (dominic-mulligan-aws) [inline Micro_Rust_Examples/Stack.thy:187]: Can these two `subgoal` commands not just be replaced with a single `apply (crush_base simp add: take_Suc_conv_app_nth)`?

File: Micro_Rust_Examples/Stack.thy (hunk 1 above)
Comment (ethan-kharitonov) [reply Micro_Rust_Examples/Stack.thy:29]: Will fix.
